US04107438
a. 3-(p-Fluorophenylthio)-propiohydroxamic acid
10 g (0.078 mol) of p-fluorothiophenol are added to a solution of 4.5 g (0.083 mol) of sodium methylate in 25 ml of methanol, and a solution of 14.5 g (0.08 mol) of ethyl 3-bromopropionate in 20 ml of methanol is then added dropwise. The mixture is heated for 2 hours to the reflux temperature, the alcohol is evaporated in vacuo, the residue is taken up in ether, the ether solution is washed with water and dried, and the ether is evaporated. The residue is treated, for 24 hours at 20° C, with a solution of hydroxylamine in methanol prepared from 7.7 g (0.11 mol) of hydroxylamine hydrochloride and 12 g (0.22 mol) of sodium methylate in 150 ml of methanol. The methanol is evaporated in vacuo, 200 ml of water are added, the mixture is extracted with ether and the hydroxamic acid is precipitated with concentrated HCl. It is filtered off, washed with water and dried. 10 g (62%) are obtained. Melting point = 93° C.

reactant | p-fluorothiophenol | 0.078 mol, 10 g | FC1=CC=C(C=C1)S | C6H5FS
reactant | sodium methylate | 0.083 mol, 4.5 g | C[O-].[Na+]
reactant | ethyl 3-bromopropionate | 0.08 mol, 14.5 g | BrCCC(=O)OCC | C5H9BrO2
reactant | hydroxylamine hydrochloride | 0.11 mol, 7.7 g | Cl.NO
reactant | sodium methylate | 0.22 mol, 12 g | C[O-].[Na+]
solvent | methanol | 25 ml | CO | CH4O
solvent | methanol | 20 ml | CO | CH4O
solvent | methanol | 150 ml | CO | CH4O
product | 3-(p-Fluorophenylthio)-propiohydroxamic acid | FC1=CC=C(C=C1)SCCC(=O)NO | C9H10FNO2S
